* ============================================================
* OpenSerDes-LP
* SKY130 1.8-V Differential RX Front-End / Slicer
* ============================================================

.lib /home/eazyhoung/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* ------------------------------------------------------------
* Supply
* ------------------------------------------------------------
VDD vdd 0 1.8

* ------------------------------------------------------------
* Differential input
* 100 mV differential swing around 0.9-V common mode
* 1-Gb/s test pattern
* ------------------------------------------------------------
VINP inp 0 PULSE(0.85 0.95 0 50p 50p 450p 1n)
VINN inn 0 PULSE(0.95 0.85 0 50p 50p 450p 1n)

* ------------------------------------------------------------
* NMOS differential input pair
* ------------------------------------------------------------
XM1 n1   inp tail 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4
XM2 vamp inn tail 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4

* ------------------------------------------------------------
* PMOS current-mirror active load
* ------------------------------------------------------------
XM3 n1   n1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=8
XM4 vamp n1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=8

* First prototype: ideal tail bias
ITAIL tail 0 DC 200u

* ------------------------------------------------------------
* CMOS inverter slicer
* ------------------------------------------------------------
XMP rxout vamp vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4
XMN rxout vamp 0   0   sky130_fd_pr__nfet_01v8 L=0.15 W=2

* Output loading
CLOAD rxout 0 20f

* ------------------------------------------------------------
* Simulation
* ------------------------------------------------------------
.tran 2p 20n

.meas tran VOUT_MAX MAX v(rxout) FROM=2n TO=20n
.meas tran VOUT_MIN MIN v(rxout) FROM=2n TO=20n
.meas tran IAVG AVG I(VDD) FROM=2n TO=20n
.meas tran PAVG PARAM='-1.8*IAVG'
.meas tran EBIT PARAM='PAVG/1e9'

.control
run
set wr_singlescale
set wr_vecnames
wrdata analog/results/rx_waveform.csv time v(inp) v(inn) v(vamp) v(rxout)
quit
.endc

.end