* ============================================================
* OpenSerDes-LP
* SKY130 1.8-V Low-Power Differential TX Driver
* ============================================================

.lib /home/eazyhoung/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param VDDVAL=1.8

* Supply
VDD vdd 0 1.8

* 1-Gb/s differential input
VINP inp 0 PULSE(1.0 1.4 0 20p 20p 480p 1n)
VINN inn 0 PULSE(1.4 1.0 0 20p 20p 480p 1n)

* SKY130 NMOS differential pair
XM1 outp inp tail 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4
XM2 outn inn tail 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4

* Resistive loads
RL1 vdd outp 100
RL2 vdd outn 100

* Ideal 1-mA tail current
ITAIL tail 0 DC 1m

* Output load capacitance
CLOADP outp 0 50f
CLOADN outn 0 50f

* Differential voltage monitor
EDIFF vdiff 0 outp outn 1

* Transient simulation
.tran 2p 20n

* Measurements
.meas tran VDIFF_MAX MAX v(vdiff) FROM=2n TO=20n
.meas tran VDIFF_MIN MIN v(vdiff) FROM=2n TO=20n

.meas tran IAVG AVG I(VDD) FROM=2n TO=20n
.meas tran PAVG PARAM='-1.8*IAVG'
.meas tran EBIT PARAM='PAVG/1e9'

.control
run
set wr_singlescale
set wr_vecnames
wrdata analog/results/tx_waveform.csv time v(inp) v(inn) v(outp) v(outn) v(vdiff)
quit
.endc